US08183242B2
To a flask was added N-(5-nitro-2-methyl-pyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine (18.0 g) and THF (200 mL) and the solution was cooled to 0-5° C. To the solution was added LiAlH4 (about 2.2 g in total) in several portions and the mixture was stirred for 2 hours at the same temperature. The reaction mixture was acidified to pH=5-6 using 1N HCl and then extracted with CH2Cl2 (2×100 mL ). The organic extracts were combined, dried, filtrated and concentrated to afford N-(5-amino-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine (12 g).

reactant | N-(5-nitro-2-methyl-pyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine | 18.0 g | [N+](=O)([O-])C=1C=C(C(=NC1)C)NC1=NC=CC(=N1)C=1C=NC=CC1 | C15H12N6O2
reactant | LiAlH4 | about 2.2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N-(5-amino-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine | 12 g | NC=1C=C(C(=NC1)C)NC1=NC=CC(=N1)C=1C=NC=CC1 | C15H14N6
